US04551452
Chloromethyl Benzoate
By the procedure of Preparation 10, sodium benzoate (29.97 g, 208 mmol) was converted to crude title product, a thick oil which solidified upon standing at room temperature. TLC of this solid (3:2 hexane:methylene chloride, visualization by UV light) showed two contiguous spots (Rf 0.65, 0.75) and a large baseline spot. The solid was treated with generous amounts of hexane and filtered. TLC of the filtrate showed only less polar products; TLC of the solid only baseline salts. The filtrate was concentrated in vacuo to a yellow oil and chromatographed on silica (3:2 hexane:methylene chloride). Fractions containing the least polar (Rf 0.75) spot were combined and concentrated, affording 4.29 g (25.2 mmol, 12.0%) chloromethyl benzoate as a pale yellow oil: 1H NMR (CDCl3) delta 5.95 (s, 2H), 7.15-7.61 (m, 3H), 7.85-8.18 (m, 2H).

reactant | sodium benzoate | 208 mmol, 29.97 g | C(C1=CC=CC=C1)(=O)[O-].[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | chloromethyl benzoate | 25.2 mmol, 4.29 g, 12.0% | C(C1=CC=CC=C1)(=O)OCCl | C8H7ClO2
